**********************************
**********************************
**
** Littelfuse, LP
** TRIAC SPICE Models
** Qxx40xx
**
** T. Chenoski
** Irving Technical Center
**
** A 06/08/08
**
**********************************
**********************************
.SUBCKT Q4040KH6   1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    10m
Rhold   7          6    50
RGP     8          3    12
RG      2          8    5.8
RS      8          4    100
DN      9          2    DIN       OFF
RN      9          3    4
GNN     6          7    9         3       0.1
GNP     4          5    9         3       0.1
DP      2          10   DIP       OFF
RP      10         3    3.56
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=400)
.MODEL  PoutF      PNP  (IS=382F  BF=0.5  CJE=380p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=380p CJC=76p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=3    CJE=380p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=380p CJC=76p  TF=0.3U)
.ENDS

.SUBCKT Q4040JH6   1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    10m
Rhold   7          6    50
RGP     8          3    12
RG      2          8    5.8
RS      8          4    100
DN      9          2    DIN       OFF
RN      9          3    4
GNN     6          7    9         3       0.1
GNP     4          5    9         3       0.1
DP      2          10   DIP       OFF
RP      10         3    3.56
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=400)
.MODEL  PoutF      PNP  (IS=382F  BF=0.5  CJE=380p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=380p CJC=76p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=3    CJE=380p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=380p CJC=76p  TF=0.3U)
.ENDS

.SUBCKT Q6040KH6   1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    10m
Rhold   7          6    50
RGP     8          3    12
RG      2          8    5.8
RS      8          4    100
DN      9          2    DIN       OFF
RN      9          3    4
GNN     6          7    9         3       0.1
GNP     4          5    9         3       0.1
DP      2          10   DIP       OFF
RP      10         3    3.56
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=600)
.MODEL  PoutF      PNP  (IS=382F  BF=0.5  CJE=380p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=380p CJC=76p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=3    CJE=380p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=380p CJC=76p  TF=0.3U)
.ENDS

.SUBCKT Q6040JH6   1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    10m
Rhold   7          6    50
RGP     8          3    12
RG      2          8    5.8
RS      8          4    100
DN      9          2    DIN       OFF
RN      9          3    4
GNN     6          7    9         3       0.1
GNP     4          5    9         3       0.1
DP      2          10   DIP       OFF
RP      10         3    3.56
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=600)
.MODEL  PoutF      PNP  (IS=382F  BF=0.5  CJE=380p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=380p CJC=76p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=3    CJE=380p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=380p CJC=76p  TF=0.3U)
.ENDS

.SUBCKT Q8040KH6   1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    10m
Rhold   7          6    50
RGP     8          3    12
RG      2          8    5.8
RS      8          4    100
DN      9          2    DIN       OFF
RN      9          3    4
GNN     6          7    9         3       0.1
GNP     4          5    9         3       0.1
DP      2          10   DIP       OFF
RP      10         3    3.56
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=800)
.MODEL  PoutF      PNP  (IS=382F  BF=0.5  CJE=380p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=380p CJC=76p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=3    CJE=380p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=380p CJC=76p  TF=0.3U)
.ENDS

.SUBCKT Q8040JH6   1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    10m
Rhold   7          6    50
RGP     8          3    12
RG      2          8    5.8
RS      8          4    100
DN      9          2    DIN       OFF
RN      9          3    4
GNN     6          7    9         3       0.1
GNP     4          5    9         3       0.1
DP      2          10   DIP       OFF
RP      10         3    3.56
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=800)
.MODEL  PoutF      PNP  (IS=382F  BF=0.5  CJE=380p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=380p CJC=76p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=3    CJE=380p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=380p CJC=76p  TF=0.3U)
.ENDS

.SUBCKT QK040KH6   1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    10m
Rhold   7          6    50
RGP     8          3    12
RG      2          8    5.8
RS      8          4    100
DN      9          2    DIN       OFF
RN      9          3    4
GNN     6          7    9         3       0.1
GNP     4          5    9         3       0.1
DP      2          10   DIP       OFF
RP      10         3    3.56
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=1000)
.MODEL  PoutF      PNP  (IS=382F  BF=0.5  CJE=380p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=380p CJC=76p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=3    CJE=380p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=380p CJC=76p  TF=0.3U)
.ENDS

.SUBCKT Q4040K7    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    10m
Rhold   7          6    50
RGP     8          3    10
RG      2          8    5.8
RS      8          4    75
DN      9          2    DIN       OFF
RN      9          3    4
GNN     6          7    9         3       0.1
GNP     4          5    9         3       0.1
DP      2          10   DIP       OFF
RP      10         3    3.56
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=400)
.MODEL  PoutF      PNP  (IS=382F  BF=0.45 CJE=380p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=380p CJC=76p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=2.5  CJE=380p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=380p CJC=76p  TF=0.3U)
.ENDS

.SUBCKT Q4040J7    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    10m
Rhold   7          6    50
RGP     8          3    10
RG      2          8    5.8
RS      8          4    75
DN      9          2    DIN       OFF
RN      9          3    4
GNN     6          7    9         3       0.1
GNP     4          5    9         3       0.1
DP      2          10   DIP       OFF
RP      10         3    3.56
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=400)
.MODEL  PoutF      PNP  (IS=382F  BF=0.45 CJE=380p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=380p CJC=76p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=2.5  CJE=380p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=380p CJC=76p  TF=0.3U)
.ENDS

.SUBCKT Q6040K7    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    10m
Rhold   7          6    50
RGP     8          3    10
RG      2          8    5.8
RS      8          4    75
DN      9          2    DIN       OFF
RN      9          3    4
GNN     6          7    9         3       0.1
GNP     4          5    9         3       0.1
DP      2          10   DIP       OFF
RP      10         3    3.56
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=600)
.MODEL  PoutF      PNP  (IS=382F  BF=0.45 CJE=380p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=380p CJC=76p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=2.5  CJE=380p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=380p CJC=76p  TF=0.3U)
.ENDS

.SUBCKT Q6040J7    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    10m
Rhold   7          6    50
RGP     8          3    10
RG      2          8    5.8
RS      8          4    75
DN      9          2    DIN       OFF
RN      9          3    4
GNN     6          7    9         3       0.1
GNP     4          5    9         3       0.1
DP      2          10   DIP       OFF
RP      10         3    3.56
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=600)
.MODEL  PoutF      PNP  (IS=382F  BF=0.45 CJE=380p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=380p CJC=76p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=2.5  CJE=380p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=380p CJC=76p  TF=0.3U)
.ENDS

.SUBCKT Q8040K7    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    10m
Rhold   7          6    50
RGP     8          3    10
RG      2          8    5.8
RS      8          4    75
DN      9          2    DIN       OFF
RN      9          3    4
GNN     6          7    9         3       0.1
GNP     4          5    9         3       0.1
DP      2          10   DIP       OFF
RP      10         3    3.56
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=800)
.MODEL  PoutF      PNP  (IS=382F  BF=0.45 CJE=380p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=380p CJC=76p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=2.5  CJE=380p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=380p CJC=76p  TF=0.3U)
.ENDS

.SUBCKT Q8040J7    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    10m
Rhold   7          6    50
RGP     8          3    10
RG      2          8    5.8
RS      8          4    75
DN      9          2    DIN       OFF
RN      9          3    4
GNN     6          7    9         3       0.1
GNP     4          5    9         3       0.1
DP      2          10   DIP       OFF
RP      10         3    3.56
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=800)
.MODEL  PoutF      PNP  (IS=382F  BF=0.45 CJE=380p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=380p CJC=76p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=2.5  CJE=380p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=380p CJC=76p  TF=0.3U)
.ENDS

.SUBCKT QK040K7    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    10m
Rhold   7          6    50
RGP     8          3    10
RG      2          8    5.8
RS      8          4    75
DN      9          2    DIN       OFF
RN      9          3    4
GNN     6          7    9         3       0.1
GNP     4          5    9         3       0.1
DP      2          10   DIP       OFF
RP      10         3    3.56
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=1000)
.MODEL  PoutF      PNP  (IS=382F  BF=0.45 CJE=380p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=380p CJC=76p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=2.5  CJE=380p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=380p CJC=76p  TF=0.3U)
.ENDS
