*=======================
*Triac pinout: MT2 G MT1
*=======================

*MAC15A6 MCE 2-27-96
*400V 15A pkg:TO-220 1,2,3
.SUBCKT XMAC15A6 1 2 3
QN1  5 4 3  NOUT OFF
QN2 11 6 7  NOUT OFF
QP1 6 11 3  POUT OFF
QP2  4 5 7  POUT OFF
DF  4  5  DZ OFF
DR  6 11  DZ OFF
RF  4 6  40MEG
RT2 1 7  18.8M
RH  7 6  87.5
RGP 8 3  23.1
RG  2 8  11.5
RS  8 4  102
DN  9 2  DIN OFF
RN  9 3  41.6
GNN  6 7 9 3 15.2M
GNP  4 5 9 3 18.1M
DP 2 10  DIP OFF
RP 10 3  29.5
GP  7 6 10 3 10.3M
.MODEL DIN  D (IS=45.8F)
.MODEL DIP  D (IS=45.8F N=1.2)
.MODEL DZ   D (IS=45.8F N=1.5 IBV=10U BV=400)
.MODEL POUT PNP (IS=45.8F BF=5 CJE=4.02N TF=38.2U)
.MODEL NOUT NPN (IS=45.8F BF=20 CJE=4.02N CJC=804P TF=2.55U)
.ENDS XMAC15A6

*MAC15A8 MCE 2-27-96
*600V 15A pkg:TO-220 2,3,1
.SUBCKT XMAC15A8  1  2  3
QN1  5 4 3  NOUT OFF
QN2 11 6 7  NOUT OFF
QP1 6 11 3  POUT OFF
QP2  4 5 7  POUT OFF
DF  4  5  DZ OFF
DR  6 11  DZ OFF
RF  4 6  60MEG
RT2 1 7  18.8M
RH  7 6  87.5
RGP 8 3  23.1
RG  2 8  11.5
RS  8 4  102
DN  9 2  DIN OFF
RN  9 3  41.6
GNN  6 7 9 3 15.2M
GNP  4 5 9 3 18.1M
DP 2 10  DIP OFF
RP 10 3  29.5
GP  7 6 10 3 10.3M
.MODEL DIN  D (IS=45.8F)
.MODEL DIP  D (IS=45.8F N=1.2)
.MODEL DZ   D (IS=45.8F N=1.5 IBV=10U BV=600)
.MODEL POUT PNP (IS=45.8F BF=5 CJE=4.02N TF=38.2U)
.MODEL NOUT NPN (IS=45.8F BF=20 CJE=4.02N CJC=804P TF=2.55U)
.ENDS XMAC15A8

*MAC210-4 MCE 2-27-96
*200V 10A pkg:TO-220 2,3,1
.SUBCKT XMAC210-4  1  2  3
QN1  5 4 3  NOUT OFF
QN2 11 6 7  NOUT OFF
QP1 6 11 3  POUT OFF
QP2  4 5 7  POUT OFF
DF  4  5  DZ OFF
DR  6 11  DZ OFF
RF  4 6  20MEG
RT2 1 7  21.1M
RH  7 6  87.5
RGP 8 3  50
RG  2 8  25
RS  8 4  75
DN  9 2  DIN OFF
RN  9 3  65.6
GNN  6 7 9 3 15.2M
GNP  4 5 9 3 21.6M
DP 2 10  DIP OFF
RP 10 3  55.6
GP  7 6 10 3 10.3M
.MODEL DIN  D (IS=45.8F)
.MODEL DIP  D (IS=45.8F N=1.2)
.MODEL DZ   D (IS=45.8F N=1.5 IBV=10U BV=200)
.MODEL POUT PNP (IS=45.8F BF=5 CJE=201P TF=38.2U)
.MODEL NOUT NPN (IS=45.8F BF=20 CJE=201P CJC=40.2P TF=2.55U)
.ENDS XMAC210-4

*MAC210-6 MCE 2-27-96
*400V 10A pkg:TO-220 2,3,1
.SUBCKT XMAC210-6  1  2  3
QN1  5 4 3  NOUT OFF
QN2 11 6 7  NOUT OFF
QP1 6 11 3  POUT OFF
QP2  4 5 7  POUT OFF
DF  4  5  DZ OFF
DR  6 11  DZ OFF
RF  4 6  40MEG
RT2 1 7  21.1M
RH  7 6  87.5
RGP 8 3  50
RG  2 8  25
RS  8 4  75
DN  9 2  DIN OFF
RN  9 3  65.6
GNN  6 7 9 3 15.2M
GNP  4 5 9 3 21.6M
DP 2 10  DIP OFF
RP 10 3  55.6
GP  7 6 10 3 10.3M
.MODEL DIN  D (IS=45.8F)
.MODEL DIP  D (IS=45.8F N=1.2)
.MODEL DZ   D (IS=45.8F N=1.5 IBV=10U BV=400)
.MODEL POUT PNP (IS=45.8F BF=5 CJE=201P TF=38.2U)
.MODEL NOUT NPN (IS=45.8F BF=20 CJE=201P CJC=40.2P TF=2.55U)
.ENDS XMAC210-6

*MAC210-8 MCE 2-27-96
*600V 10A pkg:TO-220 2,3,1
.SUBCKT XMAC210-8  1 2 3
QN1  5 4 3  NOUT OFF
QN2 11 6 7  NOUT OFF
QP1 6 11 3  POUT OFF
QP2  4 5 7  POUT OFF
DF  4  5  DZ OFF
DR  6 11  DZ OFF
RF  4 6  60MEG
RT2 1 7  21.1M
RH  7 6  87.5
RGP 8 3  50
RG  2 8  25
RS  8 4  75
DN  9 2  DIN OFF
RN  9 3  65.6
GNN  6 7 9 3 15.2M
GNP  4 5 9 3 21.6M
DP 2 10  DIP OFF
RP 10 3  55.6
GP  7 6 10 3 10.3M
.MODEL DIN  D (IS=45.8F)
.MODEL DIP  D (IS=45.8F N=1.2)
.MODEL DZ   D (IS=45.8F N=1.5 IBV=10U BV=600)
.MODEL POUT PNP (IS=45.8F BF=5 CJE=201P TF=38.2U)
.MODEL NOUT NPN (IS=45.8F BF=20 CJE=201P CJC=40.2P TF=2.55U)
.ENDS XMAC210-8

*MAC210-10 MCE 2-27-96
*800V 10A pkg:TO-220 2,3,1
.SUBCKT XMAC210-10  1  2  3
QN1  5 4 3  NOUT OFF
QN2 11 6 7  NOUT OFF
QP1 6 11 3  POUT OFF
QP2  4 5 7  POUT OFF
DF  4  5  DZ OFF
DR  6 11  DZ OFF
RF  4 6  80MEG
RT2 1 7  21.1M
RH  7 6  87.5
RGP 8 3  50
RG  2 8  25
RS  8 4  75
DN  9 2  DIN OFF
RN  9 3  65.6
GNN  6 7 9 3 15.2M
GNP  4 5 9 3 21.6M
DP 2 10  DIP OFF
RP 10 3  55.6
GP  7 6 10 3 10.3M
.MODEL DIN  D (IS=45.8F)
.MODEL DIP  D (IS=45.8F N=1.2)
.MODEL DZ   D (IS=45.8F N=1.5 IBV=10U BV=800)
.MODEL POUT PNP (IS=45.8F BF=5 CJE=201P TF=38.2U)
.MODEL NOUT NPN (IS=45.8F BF=20 CJE=201P CJC=40.2P TF=2.55U)
.ENDS XMAC210-10
